US06620839B2
3′,5′-difluoro-4′-hydroxy-1,1′-biphenyl-4-carbonitrile
4-Cyanophenylboronic acid and 4-bromo-2,6-difluorophenol were processed as described in Example 167A to provide the title compound (48% yield). 1HNMR (300 MHz, CDCl3) δ5.30 (bs, 1H), 7.20 (m, 2H), 7.60 (m, 2H), 7.78 (m, 2H); MS (CDI) m/z 232(M+H)+.

reactant | 4-Cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | 4-bromo-2,6-difluorophenol | BrC1=CC(=C(C(=C1)F)O)F | C6H3BrF2O
product | 3′,5′-difluoro-4′-hydroxy-1,1′-biphenyl-4-carbonitrile | 48% yield | FC=1C=C(C=C(C1O)F)C1=CC=C(C=C1)C#N | C13H7F2NO
